* eeschema netlist version 1.1 (spice format) creation date: 12/15/2014 4:07:39 pm

v1  1 0 sine(0 5 50 0 0)
* Plotting option vplot8_1
r1  2 3 10k
d4  0 2 1n4007
d3  3 0 1n4007
d2  1 2 1n4007
d1  3 1 1n4007

.tran  1e-03 100e-03 0e-00

* Control Statements 
.control
run
plot v(2)-v(3) 
plot v(1) 
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
